US07022456B2
Cyclohexylethyl alcohol was mixed with ethyl vinyl ether. Mercury acetate was added thereto and this mixture was stirred at room temperature for 12 hours. The resultant reaction mixture was extracted with ethyl acetate and water, and the extract was washed with water and then distilled under reduced pressure to obtain cyclohexylethyl vinyl ether (X-1) as the target compound.

reactant | Cyclohexylethyl alcohol | C1(CCCCC1)CCO | C8H16O
reactant | ethyl vinyl ether | C(=C)OCC | C4H8O
catalyst | Mercury acetate | C(C)(=O)[O-].[Hg+]
product | cyclohexylethyl vinyl ether | C(=C)OCCC1CCCCC1 | C10H18O
